US08686018B2
1-methyl-3-(trifluoromethyl)-5-(4-(trifluoromethyl)phenoxy)-1H-pyrazole-4-carboxylic acid
The title compound was prepared using 5-chloro-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde and 4-(trifluoromethyl)phenol in the manner similar to the method in Production Example 1 above except potassium carbonate was used instead of potassium hydroxide.

reactant | 5-chloro-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde | ClC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4ClF3N2O
reactant | 4-(trifluoromethyl)phenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-methyl-3-(trifluoromethyl)-5-(4-(trifluoromethyl)phenoxy)-1H-pyrazole-4-carboxylic acid | CN1N=C(C(=C1OC1=CC=C(C=C1)C(F)(F)F)C(=O)O)C(F)(F)F | C13H8F6N2O3
